US08957080B2
A mixture of (R)-tert-butyl 3-(4-amino-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (250 mg, 0.56 mmol), 4-phenoxyphenylboronic acid (133 mg, 0.62 mmol), Pd(PPh3)4 (100 mg) and Na2CO3 (150 mg, 1.41 mmol) in dioxane/H2O (40/10 ml) was stirred at 100° C. for 4 h. The reaction mixture was concentrated and purified by Pre-TLC to obtain (R)-tert-butyl 3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate (150 mg, 55% in yield).

reactant | (R)-tert-butyl 3-(4-amino-5-iodo-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 0.56 mmol, 250 mg | NC=1C2=C(N=CN1)N(C=C2I)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C16H22IN5O2
reactant | 4-phenoxyphenylboronic acid | 0.62 mmol, 133 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | Na2CO3 | 1.41 mmol, 150 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane H2O | 10 ml | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 100 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (R)-tert-butyl 3-(4-amino-5-(4-phenoxyphenyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl)piperidine-1-carboxylate | 150 mg, 55% | NC=1C2=C(N=CN1)N(C=C2C2=CC=C(C=C2)OC2=CC=CC=C2)[C@H]2CN(CCC2)C(=O)OC(C)(C)C | C28H31N5O3
